### PR TITLE
[Merged by Bors] - feat(SimpleGraph/Walk): edge sets of walks

### PR DESCRIPTION
**Pull request by apnelson1**
We introduce a definition `SimpleGraph.Walk.edgeSet (p : SimpleGraph.Walk G u v) : Set (Sym2 V)` for the edge set of a walk, and give a few very basic API lemmas. This allows us to avoid both decidability and the ugly `p.edges.toFinset.toSet` when talking about the set of edges of a walk. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 1]
```diff
@@ -780,6 +780,49 @@ theorem edges_injective {u v : V} : Function.Injective (Walk.edges : G.Walk u v
...
+/-- The `Set` of edges of a walk. -/
+def edgeSet {u v : V} (p : G.Walk u v) : Set (Sym2 V) := {e | e ∈ p.edges}
+
+@[simp]
+lemma mem_edgeSet {u v : V} {p : G.Walk u v} {e : Sym2 V} : e ∈ p.edgeSet ↔ e ∈ p.edges := Iff.rfl
+
+@[simp]
+lemma edgeSet_nil (u : V) : (nil : G.Walk u u).edgeSet = ∅ := by
+  ext
+  simp
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:792]:
```suggestion
lemma edgeSet_nil (u : V) : (nil : G.Walk u u).edgeSet = ∅ := by ext; simp
```
optional, but if you like it then let's also do similar below

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 2]
```diff
@@ -780,6 +780,49 @@ theorem edges_injective {u v : V} : Function.Injective (Walk.edges : G.Walk u v
...
   edges_injective.of_comp
 
+/-- The `Set` of edges of a walk. -/
+def edgeSet {u v : V} (p : G.Walk u v) : Set (Sym2 V) := {e | e ∈ p.edges}
+
+@[simp]
+lemma mem_edgeSet {u v : V} {p : G.Walk u v} {e : Sym2 V} : e ∈ p.edgeSet ↔ e ∈ p.edges := Iff.rfl
+
+@[simp]
+lemma edgeSet_nil (u : V) : (nil : G.Walk u u).edgeSet = ∅ := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:790]: We could (after Nil is defined) also have that `p.edgeSet = empty iff p.IsNil`. There's a few other lemmas I can think of for the new definition, basically just describing the interaction with other defs in this file (I have a rough mental heuristic that there should be about 1/2 n^2 lemmas for n definitions, describing how each def relates to each other (within reason, of course!)). For example, `(p.drop _).edgeSet` is a subset of `p.edgeSet`, the vertices mentioned are equal to the vertices in `p.support`, etc. I don't have a strong preference if you do that here, in another PR, or just leave it as TODO (in fact I have a weak preference for it to be in another PR)

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 2 above)
Comment (apnelson1) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean:790]: Ok, I'll do another PR after this one.

**Review by b-mehta — APPROVED** [review]
Thanks!

bors merge
